US06562978B1
4-(4-Fluorophenylsulfonyl)piperidine Hydrochloride
1-tert-Butoxycarbonyl-4-(4-fluorophenylsulfonyl)piperidine (1.76 g, 5.1 mmol) was suspended in methanol (10 mL). To the suspension was added 4N-hydrogen chloride in ethyl acetate (20 mL), and the mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure, and to the concentrate was added ethyl acetate. The precipitates were collected by filtration, washed with ethyl acetate, and dried under reduced pressure to give the titled compound (1.39 g, 5.0 mmol, Yield 97%) as white crystals.

reactant | 1-tert-Butoxycarbonyl-4-(4-fluorophenylsulfonyl)piperidine | 5.1 mmol, 1.76 g | C(C)(C)(C)OC(=O)N1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)F | C16H22FNO4S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-Fluorophenylsulfonyl)piperidine Hydrochloride | 5.0 mmol, 1.39 g, Yield 97% | Cl.FC1=CC=C(C=C1)S(=O)(=O)C1CCNCC1 | InChI=1S/C11H14FNO2S.ClH/c12-9-1-3-10(4-2-9)16(14,15)11-5-7-13-8-6-11;/h1-4,11,13H,5-8H2;1H
